US07960369B2
5-(2-(4-((3-phenoxybenzyl)oxy)phenyl)ethyl)-1H-tetrazole
A solution of 3-(4-((3-phenoxybenzyl)oxy)phenyl)propanenitrile (0.5 g, 1.52 mmol), sodium azide (0.49 g, 7.54 mmol) and ammonium chloride (0.41 g, 7.66 mmol) in N,N-dimethylformamide (20 ml) was stirred at 110° C. for 28 hrs. The reaction solution was diluted with ethyl acetate, washed successively with aqueous citric acid solution, water and aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography (ethyl acetate:hexane=2:3-2:1) to give an oil, which was crystallized from ethyl acetate-tetrahydrofuran to give the title compound (0.24 g, 43%).

reactant | 3-(4-((3-phenoxybenzyl)oxy)phenyl)propanenitrile | 1.52 mmol, 0.5 g | O(C1=CC=CC=C1)C=1C=C(COC2=CC=C(C=C2)CCC#N)C=CC1 | C22H19NO2
reactant | sodium azide | 7.54 mmol, 0.49 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 7.66 mmol, 0.41 g | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-(4-((3-phenoxybenzyl)oxy)phenyl)ethyl)-1H-tetrazole | 0.24 g, 43% | O(C1=CC=CC=C1)C=1C=C(COC2=CC=C(C=C2)CCC2=NN=NN2)C=CC1 | C22H20N4O2
